US07297704B2
Step 5: 1-(8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]furan-2-yl)-N-{[(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}methanamine
8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]furan-2-carbaldehyde (0.040 g, 0.18 mmol), [(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methylamine (0.042 g, 0.18 mmol), and NaBH3CN (0.023 g, 0.38 mmol) were stirred together in MeOH (1.2 mL) under a N2 atmosphere. To this mixture was added AcOH (0.023 mL) and reaction was allowed to stir for 3 h. The reaction mixture was concentrated and the resulting oil was purified by flash chromatography on silica gel to afford title compound as a mixture of two diastereomers (0.068 g, 88%). The diastereomers were separated by HPLC on a Chiracel AD column (2×25 cm), eluting with 100% ethanol; MS (ES) m/z=433.1 [M+H]+.

reactant | 8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]furan-2-carbaldehyde | 0.18 mmol, 0.040 g | FC=1C=CC2=C(C3=C(O2)CCC(C3)C=O)C1 | C13H11FO2
reactant | [(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methylamine | 0.18 mmol, 0.042 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)CN | C13H14N2O2
reactant | NaBH3CN | 0.38 mmol, 0.023 g | [BH3-]C#N.[Na+]
reactant | AcOH | 0.023 mL | CC(=O)O | C2H4O2
solvent | MeOH | 1.2 mL | CO | CH4O
product | 1-(8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]furan-2-yl)-N-{[(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}methanamine | FC=1C=CC2=C(C3=C(O2)CCC(C3)CNC[C@H]3COC=2C(=C4C=CC(=NC4=CC2)C)O3)C1 | C26H25FN2O3
